US05698554
By treating 6-[4-(4-aminobutyl)phenyl]pyridazin-3(2H)-one and pyridazin-4-carboxylic acid in the same manner as in Example 87, 6-[4-[4-(pyridazin-4-ylcarbonylamino)butyl]-phenyl]pyridazin-3(2H)-one was obtained.

reactant | 6-[4-(4-aminobutyl)phenyl]pyridazin-3(2H)-one | NCCCCC1=CC=C(C=C1)C=1C=CC(NN1)=O | C14H17N3O
reactant | pyridazin-4-carboxylic acid | N1=NC=C(C=C1)C(=O)O | C5H4N2O2
product | 6-[4-[4-(pyridazin-4-ylcarbonylamino)butyl]-phenyl]pyridazin-3(2H)-one | N1=NC=C(C=C1)C(=O)NCCCCC1=CC=C(C=C1)C=1C=CC(NN1)=O | C19H19N5O2
